US04837225
2-(2,5-Dimethyl-1-pyrolyl)ethylurea
6.9 g (0.05 mol) of 1-(2-aminoethyl)2,5-dimethylpyrrole are dissolved in 8 ml of water. While cooling, 5 ml of concentrated hydrochloric acid are slowly added dropwise, and then 4.9 g (0.05 mol) of potassium cyanate, dissolved in 30 ml of water, are added dropwise. The precipitated solid is filtered off with suction and recrystallized from toluene/ethyl acetate. Yield: 3.8 g (42% of theory), Melting point: 139°-141° C. Elemental analysis: C9H15N3O (181.24) calculated: C 59.6 H 8.3 N 23.2 0 8.8 found: C 59.2 H 8.2 N 22.8 0 9.1

reactant | 1-(2-aminoethyl)2,5-dimethylpyrrole | 0.05 mol, 6.9 g | NCCN1C(=CC=C1C)C | C8H14N2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | potassium cyanate | 0.05 mol, 4.9 g | [O-]C#N.[K+]
solvent | water | 8 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-(2,5-Dimethyl-1-pyrolyl)ethylurea | CC=1N(C(=CC1)C)CCNC(=O)N | C9H15N3O
